US07759469B2
a) 3-Iodo-5-nitro-indole
25.0 g (154.2 mmol) 5-nitroindole (Aldrich N1,760-2) and 21.7 g (386.7 mmol) potassium hydroxide (Ident. 1087347-001) were dissolved in 270 ml DMF. To this solution 39.5 g (155.6 mmol) iodine dissolved in 250 ml DMF were added drop wise during one hour. The resulting mixture was subsequently stirred for 1.0 h at room temperature. Afterwards the reaction mixture was poured on 2.5 l of sludge. The formed precipitate was collected by filtration and washed twice with water. The residue obtained was dried in a vacuum (yield: 43.0 g).

reactant | 5-nitroindole | 154.2 mmol, 25.0 g | [N+](=O)([O-])C=1C=C2C=CNC2=CC1 | C8H6N2O2
reactant | potassium hydroxide | 386.7 mmol, 21.7 g | [OH-].[K+]
reactant | iodine | II | I2
solvent | DMF | 270 ml | CN(C)C=O | C3H7NO
solvent | DMF | 250 ml | CN(C)C=O | C3H7NO
product | 3-Iodo-5-nitro-indole | IC1=CNC2=CC=C(C=C12)[N+](=O)[O-] | C8H5IN2O2
